US04525476
A solution of 5.0 g (0.025 mol) L-methionine methyl ester hydrochloride is dissolved in 30 ml of dichloromethane. The solution is cooled to 0° C. and 4.42 ml (0.028 mol) of triethylamine is added dropwise over a ten minute period. The mixture is stirred 15 minutes, filtered, and a mixture of the following is added in a single addition: 6.32 g (0.03 mol) of dicyclohexylcarbodiimide; 200 mg (0.0016 mol) of 4-dimethylaminopyridine; 3.85 g (0.025 mol) of 5-oxo-2-pyrrolidinepropanoic acid. The reaction is allowed to warm to room temperature and stirred for 24 hours. The solids are removed by filtration and are washed with 15 ml of 0° C. dichloromethane. The filtrate is concentrated at reduced pressure to an oil. The oil is chromatographed over silica gel using 19:1 dichloromethanemethanol for elution. Concentration at reduced pressure followed by heating at 0.1 mm pressure and 60° C. yields crystalline analytically pure N-[1-oxo- 3-(5-oxo-2-pyrrolidinyl)propyl]-L-methionine, methyl ester with a melting point of 98°-100° C.

reactant | L-methionine methyl ester hydrochloride | 0.025 mol, 5.0 g | Cl.COC([C@@H](N)CCSC)=O
reactant | triethylamine | 0.028 mol, 4.42 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 0.03 mol, 6.32 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-oxo-2-pyrrolidinepropanoic acid | 0.025 mol, 3.85 g | O=C1CCC(N1)CCC(=O)O | C7H11NO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.0016 mol, 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[1-oxo- 3-(5-oxo-2-pyrrolidinyl)propyl]-L-methionine, methyl ester | O=C(CCC1NC(CC1)=O)N[C@@H](CCSC)C(=O)OC | C13H22N2O4S
